US04963568
4-(2',3'-Dimethoxyphenyl)-3-phenylbutyric acid (37 g, 123 mmol), from Step 5, was added dropwise to 200 g of polyphosphoric acid heated to 100° C. The resultant mixture was stirred and heated at 100° C. for 0.25 h. A mixture of 100 g of ice and 200 mL of water was added to the reaction mixture. The precipitate which formed was filtered, washed with 3×75 mL of water and dissolved in 300 mL of methylene chloride. The methylene chloride solution was dried over anhydrous magnesium sulfate, filtered and concentrated to give 28 g (81% yield) of 5,6-dimethoxy-3-phenyl-1,2,3,4-tetrahydro-1-naphthalenone, m.p. 127-128° C. 1H NMR (CDCl3) delta 2.75-3.0 (m, 3H), 3.3-3.5 (m, 2H), 3.8 (s, 3H), 3.95 (s, 3H), 6.93 (d, 1H), 7.25-7.4 (m, 5H), 7.9 (d, 1H).

reactant | 4-(2',3'-Dimethoxyphenyl)-3-phenylbutyric acid | 123 mmol, 37 g | COC1=C(C=CC=C1OC)CC(CC(=O)O)C1=CC=CC=C1 | C18H20O4
solvent | water | 200 mL | O | H2O
product | 5,6-dimethoxy-3-phenyl-1,2,3,4-tetrahydro-1-naphthalenone | 28 g, 81% yield | COC1=C2CC(CC(C2=CC=C1OC)=O)C1=CC=CC=C1 | C18H18O3
